US07968746B2
Oxidation as described in protocol B, using 3.50 g (11.93 mmol) of (S)-6-hydroxy-N-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide and 13.73 g CAN (25.06 mmol) yielded 3.341 g of (S)-2-hydroxy-N-(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow solid.

reactant | (S)-6-hydroxy-N-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 11.93 mmol, 3.50 g | OC=1C(=C2CC[C@](OC2=C(C1C)C)(C(=O)NCCO)C)C | C16H23NO4
reactant | CAN | 25.06 mmol, 13.73 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | (S)-2-hydroxy-N-(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 3.341 g | O[C@](C(=O)NCCO)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C16H23NO5
